US05476933
Preparation of 2-Methoxy-5,7-dimethylnaphthalene-1,4-dione (95).
To a solution of 5,8-dihydro-2-methoxy-5,6-dimethylnaphthalene-1,4-dione (4.00 g, 18.3 mmol) in CHCl3 (150 mL), there was added MnO2 (9.49 g, 110 mmol, Fluka). The stirred suspension was heated at reflux and monitored by 1H NMR (filtered aliquot through celite and removed solvent in vacuo). After 4.5 h, an additional portion of MnO2 (4.8 g, 55 mmol) was added and the reaction was allowed to reflux for an additional 3 h (7.5 h total). The reaction was allowed to stir overnight at rt and was filtered through Celite. The pad was washed with CHCl3 (3×30 mL). Solvent removal yielded a yellow powder (3.80 g, 95%, pure by TLC and 1H NMR); mp 146°-148° C.; 1H NMR (CDCl3) δ2.43 (s, 3H), 2.71 (s, 3H), 3.87 (s, 3H), 6.07 (s, 1H), 7.33 (s, 1H), 7.87 (s, 1H); IR (KBr) 3070 (w), 2982 (w), 2968 (w), 2946 (w), 2926 (w), 2850 (w), 1676 (s), 1646 (s), 1636 (s), 1619 (s), 1601 (s), 1247 (s), 1243 (s), 1236 (s), 1105 (s), 865 (m), 705 (m). Crystallization from EtOH yielded yellow needles (mp 147.5°-149° C.).

reactant | 5,8-dihydro-2-methoxy-5,6-dimethylnaphthalene-1,4-dione | 18.3 mmol, 4.00 g | COC=1C(C=2CC=C(C(C2C(C1)=O)C)C)=O | C13H14O3
reactant | KBr | [K+].[Br-]
reactant | CHCl3 | 150 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | MnO2 | 110 mmol, 9.49 g | O=[Mn]=O
catalyst | MnO2 | 55 mmol, 4.8 g | O=[Mn]=O
product | 2-Methoxy-5,7-dimethylnaphthalene-1,4-dione | COC=1C(C2=CC(=CC(=C2C(C1)=O)C)C)=O | C13H12O3
